US07576115B2
2) Synthesis of 4-methoxycarbonyl-3-nitrophenyl isothiocyanate
A solution of the above synthesized methyl 4-amino-2-nitrobenzoate (50 mg, 0.25 mmol) and 1,1′-thiocarbonyldi-2(1H)-pyridone (59 mg, 0.25 mmol) in dichloromethane (4.2 ml) was stirred at room temperature for 3 hours. After completion of the reaction, the solvent was evaporated, followed by purification with a silica gel column chromatography to obtain 42 mg of the desired product as a colorless oil (yield 69%).

reactant | methyl 4-amino-2-nitrobenzoate | 0.25 mmol, 50 mg | NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | 1,1′-thiocarbonyldi-2(1H)-pyridone | 0.25 mmol, 59 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 4.2 ml | ClCCl | CH2Cl2
product | 4-methoxycarbonyl-3-nitrophenyl isothiocyanate | 42 mg, yield 69% | COC(=O)C1=C(C=C(C=C1)N=C=S)[N+](=O)[O-] | C9H6N2O4S
